US06329381B1
6-Amino-9-(4-fluorobenzyl)-8-hydroxy-2-methylthiopurine
6-amino-9-(4-fluorobenzyl)-8-hydroxy-2-mercaptopurine (200 mg, 0.687 mmol) was suspended in methanol (20 ml). To the suspension were added potassium carbonate (190 mg, 1.37 mmol) and methyl iodide (975 mg, 6.87 mmol) in order. The mixture was stirred at room temperature for 30 minutes. The reaction mixture were evaporated in vacuo to dryness and extracted with chloroform. The organic layer was dried on sodium sulfate. After removal of the solvent in vacuo, the residue was purified by silica gel chromatography (3% methanol/chloroform) to give the subject compound (63 mg, yield 30%).

reactant | 6-amino-9-(4-fluorobenzyl)-8-hydroxy-2-mercaptopurine | 0.687 mmol, 200 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=C(C=C1)F)O | C12H10FN5OS
reactant | potassium carbonate | 1.37 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.87 mmol, 975 mg | CI | CH3I
solvent | methanol | 20 ml | CO | CH4O
product | 6-Amino-9-(4-fluorobenzyl)-8-hydroxy-2-methylthiopurine | 63 mg, yield 30% | NC1=C2N=C(N(C2=NC(=N1)SC)CC1=CC=C(C=C1)F)O | C13H12FN5OS
